US09126969B2
36.2 g of sodium bicarbonate and 28.7 mL of N-methylhomopiperazine are added to a solution of 15 g of 4,5-difluoro-2-nitroaniline in 120 mL of anhydrous DMF. The reaction medium is heated to 80° C. using an oil bath for 2H30. The reaction medium is cooled to ambient temperature, then poured into 500 mL of water. The mixture is cooled using an ice bath and stirred, and precipitation occurs. The precipitate is filtered through sintered glass. The yellow solid is rinsed with water. The solid is dried in an oven at 40° C. 21.2 g of 4-fluoro-5-(4-methylpiperazin-1-yl)-2-nitrophenylamine are obtained in the form of a yellow solid. 1H NMR (300 MHz, DMSO-d6, δ in ppm): 2.22 (s, 3H); 2.45 (m, 4H); 3.17 (m, 4H); 6.42 (d, J=8.0 Hz, 1H); 7.34 (broad s, 2H); 7.63 (d, J=14.5 Hz, 1H). EI mass spectrum: m/z=254: M+. (base peak)—m/z=239: (M−CH3)+—m/z=234: (M−HF)+.−m/z=183: (M−C4H9N)+—m/z=70: C4H8N+—m/z=43: C2H5N+.

reactant | sodium bicarbonate | 36.2 g | C([O-])(O)=O.[Na+]
reactant | N-methylhomopiperazine | 28.7 mL | CN1CCNCCC1 | C6H14N2
reactant | 4,5-difluoro-2-nitroaniline | 15 g | FC1=CC(=C(N)C=C1F)[N+](=O)[O-] | C6H4F2N2O2
reactant | water | 500 mL | O | H2O
solvent | DMF | 120 mL | CN(C)C=O | C3H7NO
product | 4-fluoro-5-(4-methylpiperazin-1-yl)-2-nitrophenylamine | 21.2 g | FC1=CC(=C(C=C1N1CCN(CC1)C)N)[N+](=O)[O-] | C11H15FN4O2
